US06072073
Pd(OAc)2 (2.3 mg, 0.010 mmol), tri-t-butylphosphine (2.1 mg, 0.010 mmol) and NaOtBu (211 mg, 2.20 mmol) were suspended in 1 mL of THF in a screw-capped vial. The vial was sealed with a cap containing a PTFE septum and removed from the dry box. Bromobenzene (157 mg, 1.00 mmol) and acetophenone (132 mg, 1.10 mmol) were added to the reaction mixture by syringe. The reaction mixture was stirred at 25° C. and monitored by GC analysis. The crude reaction was diluted with ether and washed with 1N HCl, water and brine. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel (hexane/EtOAc=95/5) to give 188 mg (96%) of 1,2-Diphenyl-1-ethanone: 1H NMR: (CDCl3) δ 8.02 (d, J=7.1 Hz, 2H), 7.58-7.26 (m, 8H), 4.31 (s, 2H); 13C{1H} NMR: (CDCl3) δ 197.52, 136.79, 134.67, 133.09, 129.54, 129.50, 128.64, 128.62, 126.88, 45.50.

reactant | NaOtBu | 2.20 mmol, 211 mg | CC(C)(C)[O-].[Na+]
reactant | Bromobenzene | 1.00 mmol, 157 mg | BrC1=CC=CC=C1 | C6H5Br
reactant | acetophenone | 1.10 mmol, 132 mg | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | Pd(OAc)2 | 0.010 mmol, 2.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | tri-t-butylphosphine | 0.010 mmol, 2.1 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | 1,2-Diphenyl-1-ethanone | 188 mg, 96% | C1(=CC=CC=C1)C(CC1=CC=CC=C1)=O | C14H12O
